US05358938
1-(3,4-Dimethoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanediol (compound 117, FIG. 3)
1-(3,4-Dimethoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione (4.65 g, 10.74 mmole) was dissolved in 40 mL THF and the solution was diluted with 75 mL of methanol. To this solution sodium borohydride (0.73 g, 19.33 mmole) in 20 mL of water was added dropwise. The solution was stirred at room temperature for 2.5 hours, and the reaction mixture cooled, quenched with water, and the aqueous layer extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and evaporated in vacuo to provide 4.61 g of product (98.3%).

reactant | 1-(3,4-Dimethoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione | 10.74 mmole, 4.65 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C21H23NO9
reactant | sodium borohydride | 19.33 mmole, 0.73 g | [BH4-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 75 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 1-(3,4-Dimethoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanediol | 4.61 g, 98.3% | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C21H27NO9
